US04731368
2-Sulfamoylthieno[2.3-b]pyridine-7-oxide
A mixture of thieno[2,3-b]pyridine-2 Sulfonamide (0.43 g, 2 mmol) and 30% hydrogen peroxide (1.0 ml) in acetic acid (5.0 ml) was stirred at 55° C. for 24 hours. The reaction mixture was diluted with water, chilled and the resulting solid was collected and dried; 0.35 g (76% yield); m.p. 278°-279° C.

reactant | thieno[2,3-b]pyridine-2 Sulfonamide | 2 mmol, 0.43 g | S1C(=CC=2C1=NC=CC2)S(=O)(=O)N | C7H6N2O2S2
reactant | hydrogen peroxide | 1.0 ml | OO | H2O2
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-Sulfamoylthieno[2.3-b]pyridine-7-oxide | 76% yield | S(N)(=O)(=O)C1=CC=2C(=[N+](C=CC2)[O-])S1 | C7H6N2O3S2
